US07906517B2
Methyl (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylate (190 mg) is dissolved in methanol (4 ml) and thereto is added a 1N-aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 1 hour. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→4:1) to give (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylic acid (130 mg). The resulting (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylic acid (130 mg) is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (180 μl) and concentrated under reduced pressure to give (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylic acid sodium salt (120 mg). MS (m/z): 729 [M−Na]−

reactant | (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylic acid | 130 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C=2OC[C@H](N2)C(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C31H29F9N6O4
reactant | sodium hydroxide | 180 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylic acid sodium salt | 120 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C=2OC[C@H](N2)C(=O)[O-])CC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H29F9N6O4.Na/c1-2-46(28-43-24(17-50-28)26(47)48)25-4-3-20(29(32,33)34)11-19(25)16-45(27-41-13-23(14-42-27)44-5-7-49-8-6-44)15-18-9-21(30(35,36)37)12-22(10-18)31(38,39)40;/h3-4,9-14,24H,2,5-8,15-17H2,1H3,(H,47,48);/q;+1/p-1/t24-;/m0./s1
